### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms): `E₂` is 1-periodic

### PR DESCRIPTION
**Pull request by seewoo5**
Add `E2_T_transform`, `E2_T_smul` and `E2_periodic`. Used in Sphere packing project; written with Claude Opus 5.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 1]
```diff
@@ -226,6 +228,30 @@ lemma E2_slash_action (γ : SL(2, ℤ)) : E2 ∣[(2 : ℤ)] γ = E2 - (1 / (2 *
   ext z
   simp [E2, SL_smul_slash, G2_slash_action γ, mul_sub]
 
+/-- `E2` is invariant under the weight-2 slash action of `T`, since the defect `D2 T` vanishes. -/
+lemma E2_T_transform : E2 ∣[(2 : ℤ)] T = E2 := by
+  rw [E2_slash_action]
+  simp [D2_T]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Can these be combined into one `simp` (without performance cost)?

Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Done! Also `E2_periodic` proof is simplified, too.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 2]
```diff
@@ -226,6 +228,26 @@ lemma E2_slash_action (γ : SL(2, ℤ)) : E2 ∣[(2 : ℤ)] γ = E2 - (1 / (2 *
...
+  simp [E2_slash_action, D2_T]
+
+/-- `E2` is invariant under `z ↦ z + 1` (the action of `T`). -/
+lemma E2_T_smul (z : ℍ) : E2 (T • z) = E2 z := by
+  have h := congrFun E2_T_transform z
+  rw [SL_slash_apply] at h
+  simpa [denom_apply, coe_T] using h
+
+/-- `E2 ∘ ofComplex` has period `1`. -/
+lemma E2_periodic : Function.Periodic (E2 ∘ ofComplex) 1 := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Can we unify this with [`SlashInvariantFormClass.periodic_comp_ofComplex`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/ModularForms/QExpansion.html#SlashInvariantFormClass.periodic_comp_ofComplex) somehow?

Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Should I try to factor out common argument? The following seems work (suggested by Fable): if we have
```lean
theorem UpperHalfPlane.periodic_comp_ofComplex {f : ℍ → ℂ} {h : ℝ} (hf : ∀ τ : ℍ, f (h +ᵥ τ) = f τ) :
    Periodic (f ∘ ofComplex) h := by
  intro w
  by_cases hw : 0 < w.im
  · have hwh : 0 < (w + h).im := by simp [hw]
    simp only [comp_apply, ofComplex_apply_of_im_pos hwh, ofComplex_apply_of_im_pos hw]
    convert hf ⟨w, hw⟩ using 2
    ext
    simp [add_comm]
  · have : (w + h).im ≤ 0 := by simpa using not_lt.mp hw
    simp [comp_apply, ofComplex_apply_of_im_nonpos this,
      ofComplex_apply_of_im_nonpos (not_lt.mp hw)]
```
then the other theorems can be shortened as
```lean
theorem periodic_comp_ofComplex [SlashInvariantFormClass F Γ k] (hΓ : h ∈ Γ.strictPeriods) :
    Periodic (f ∘ ofComplex) h :=
  UpperHalfPlane.periodic_comp_ofComplex fun τ ↦
    SlashInvariantForm.vAdd_apply_of_mem_strictPeriods f τ hΓ

lemma E2_periodic : Function.Periodic (E2 ∘ ofComplex) 1 := by
  simpa using periodic_comp_ofComplex (h := 1) fun τ ↦ by rw [← modular_T_smul, E2_T_smul]
```

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Yes, that’s what I had in mind, thanks!

Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Done!

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 3]
```diff
@@ -228,6 +230,20 @@ lemma E2_slash_action (γ : SL(2, ℤ)) : E2 ∣[(2 : ℤ)] γ = E2 - (1 / (2 *
...
 
+/-- `E2` is invariant under the weight-2 slash action of `T`, since the defect `D2 T` vanishes. -/
+lemma E2_T_transform : E2 ∣[(2 : ℤ)] T = E2 := by
+  simp [E2_slash_action, D2_T]
+
+/-- `E2` is invariant under `z ↦ z + 1` (the action of `T`). -/
+lemma E2_T_smul (z : ℍ) : E2 (T • z) = E2 z := by
+  have h := congrFun E2_T_transform z
+  rw [SL_slash_apply] at h
+  simpa [denom_apply, coe_T] using h
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
  simpa [denom_apply, SL_slash_apply] using congrFun E2_T_transform z
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 4]
```diff
@@ -228,6 +230,20 @@ lemma E2_slash_action (γ : SL(2, ℤ)) : E2 ∣[(2 : ℤ)] γ = E2 - (1 / (2 *
...
+
+/-- `E2 ∘ ofComplex` has period `1`. -/
+lemma E2_periodic : Function.Periodic (E2 ∘ ofComplex) 1 := by
+  simpa using periodic_comp_ofComplex (h := 1) fun τ ↦ by rw [← modular_T_smul, E2_T_smul]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
lemma E2_periodic : Function.Periodic (E2 ∘ ofComplex) 1 :=
  periodic_comp_ofComplex fun _ ↦ by rw [← modular_T_smul, E2_T_smul]
```

**Review by loefflerd — COMMENTED** [review]
Looks good now, just some golfs

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
